US04358440
Production of Boc-Tyr-Gly-Gly-Phe-Met-Lys(Boc)-Pro-OH
In 8 ml of TFA were dissolved 800 mg of Boc-Tyr-Gly-Gly-Phe-Met-Lys(Boc)-Pro-OBut, and the solution, after shaking at room temperature for 60 minutes, was concentrated. To the concentrate was added diethyl ether, followed by recovering the resulting precipitates by filtration and drying. The precipitates were dissolved in 10 ml of DMF, and 0.34 ml of TEA and 440 mg of Boc-ONB were added to the solution followed by stirring at 0° C. for 2 hours and at room temperature for 10 hours. The solution was evaporated under reduced pressure to dryness. To the residue was added diethyl ether. The resulting precipitates were recovered by filtration and then placed on a column (2.5×115 cm) of Sephadex LH-20. Elution was conducted with MeOH and fractions of 195 to 225 ml were collected, then the solvent was evaporated to dryness under reduced pressure. To the concentrate was added diethyl ether, and the mixture was subjected to filtration to give the product. Yield 680 mg (90.9%); m.p. 151° C. (decomp.); [α]D24 -28.0° (c=0.52, DMF); Rf1 =0.25, Rf2 =0.64.

reactant | Boc-Tyr-Gly-Gly-Phe-Met-Lys(Boc)-Pro-OBut | 800 mg | N([C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OC(C)(C)C | C52H78N8O13S
reactant | DMF | CN(C)C=O | C3H7NO
solvent | TFA | 8 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | Boc-Tyr-Gly-Gly-Phe-Met-Lys(Boc)-Pro-OH | N([C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C48H70N8O13S
